US05256824
A mixture of 4,4-diphenyl-2-cyclopenten-1-ol (0.30 g), and triphenylphosphine (0.43 g) in carbon tetrachloride (3 ml) was refluxed for 8 hours and cooled. To the mixture was added n-hexane (5 ml), and the mixture was stirred for 10 minutes at room temperature. The insoluble material was filtered off and the filtrate was condensed under reduced pressure. The residue was dissolved in methylene chloride, and to the solution was added silica gel (1 g). After being stirred for 10 minutes, silica gel was filtered off and the filtrate was evaporated in vacuo to give 4,4-diphenyl-2-cyclopentenyl chloride (0.30 g).

reactant | 4,4-diphenyl-2-cyclopenten-1-ol | 0.30 g | C1(=CC=CC=C1)C1(C=CC(C1)O)C1=CC=CC=C1 | C17H16O
reactant | triphenylphosphine | 0.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-hexane | 5 ml | CCCCCC | C6H14
reactant | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-diphenyl-2-cyclopentenyl chloride | 0.30 g | C1(=CC=CC=C1)C1(C=CC(C1)Cl)C1=CC=CC=C1 | C17H15Cl
